data/mechanisms/records/IMS8-EQ8.55a.json
{"mechanism_id": "IMS8-EQ8.55a", "species": [{"species_id": "cyclohexene_molecular_ion", "mapped_smiles": "[CH+:1]1[CH:2][CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_allyl_distonic_ion", "mapped_smiles": "[CH2:3]=[CH:2][CH+:1][CH2:6][CH2:5][CH2:4]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclohexene_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["ring_opened_allyl_distonic_ion"]}], "steps": [{"step_id": "step_ring_opening_alpha", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_opening_alpha", "support_type": "textbook_proposed", "locator": {"page": 181, "equation": "8.55", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Equation 8.55, FIRST step (leftmost 'alpha' arrow): the cyclohexene molecular ion opens its ring by allylic (radical-site) alpha-cleavage to the ring-opened distonic ion drawn as an open hexagon with a delocalised allyl cation (curved inner line spanning three carbons, plus '+') at one chain end and a '.' at the other. Book draws 0 arc(s); moves <1,2,3> are curator-supplied hooks required for electron balance - NO electron-pushing arc is drawn on this branch (the page shows only the bracketed [M]+., the 'alpha'-labelled reaction arrow and the ring-opened product). Encoded flow: radical site C2 -> forming pi C2=C3; one electron of the ring sigma C3-C4 -> the same forming pi; the second electron of C3-C4 -> C4 (new primary radical). LOCALIZATION (convention C): the book draws the intact C=C with a bracketed '+.', so this record localises the ionised pi bond as C1(+)/C2(.) - exactly the localisation the MOD retro-Diels-Alder rules use ('[C+]5[C.]6' in IMS_4_31_alpha1 / IMS_4_32_alpha) - and the ring-opened allyl cation as C3=C2-C1(+); the partner resonance form C3(+)-C2=C1 is equally valid and is what the book's delocalised drawing covers. The prose above the scheme states that the ring 'possible a concerted, as well as a stepwise, dissociation of two ring bonds'; the scheme drawn (and encoded here) is the STEPWISE route through this distonic intermediate."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 82.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_distonic_82", "species_id": "ring_opened_allyl_distonic_ion", "step_id": "step_ring_opening_alpha", "observed_mz": 82.0777, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.3}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
